US04224325
Preparation of 3-chloro-6-(3,5-dimethyl-4-nitro-1-pyrazolyl)-pyridazine
To a mixture of 230 ml of concentrated sulphuric acid and 230 ml of 100% nitric acid, 26 g of 3-chloro-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine are added portionwise, under stirring at a temperature between 0° C. and 5° C., then the mixture is stirred at room temperature for 2 hours, poured into 1 liter of water and set aside overnight in the refrigerator. The separated crystals are filtered, washed with water and dried. Yield: 26.7 g (84.5%); m.p. 164°-167° C.

reactant | sulphuric acid | 230 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 230 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-chloro-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine | 26 g | ClC=1N=NC(=CC1)N1N=C(C=C1C)C | C9H9ClN4
solvent | water | 1 liter | O | H2O
product | 3-chloro-6-(3,5-dimethyl-4-nitro-1-pyrazolyl)-pyridazine | ClC=1N=NC(=CC1)N1N=C(C(=C1C)[N+](=O)[O-])C | C9H8ClN5O2
